US04755514
2-(4-methylphenyl)pyrazine
The procedure of Example 1 was repeated, using 16 g (0.267 mol) of ethylenediamine, 32.0 g (0.216 mol) of 4-methylphenylglyoxal, 450 ml of ethanol and 13.2 g of potassium hydroxide, with the result that 11.0 g of the titled compound was obtained (yield: 30%).

reactant | ethylenediamine | 0.267 mol, 16 g | C(CN)N | C2H8N2
reactant | 4-methylphenylglyoxal | 0.216 mol, 32.0 g | CC1=CC=C(C=C1)C(=O)C=O | C9H8O2
reactant | potassium hydroxide | 13.2 g | [OH-].[K+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 2-(4-methylphenyl)pyrazine | 11.0 g, yield: 30% | CC1=CC=C(C=C1)C1=NC=CN=C1 | C11H10N2
